US07517899B2
A solution of 1-tert-butyl-3-[(1S,2S)-2,3-dihydroxy-1-phenyl-propyl]-1,3-dihydro-2H-benzimidazol-2-one (0.55 g, 1.6 mmol) and para-toluenesulfonyl chloride (0.37 g, 1.9 mmol) in anhydrous pyridine (5 mL) was stirred at room temperature under nitrogen for 12 hours. The reaction was poured into a cold 1N aqueous solution of hydrochloric acid (50 mL) and extracted with ethyl acetate (50 mL). The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated to give (2S,3S)-toluene-4-sulfonic acid 3-(3-tert-butyl-2-oxo-2,3-dihydro-benzimidazol-1-yl)-2-hydroxy-3-phenyl-propyl ester. To a solution of (2S,3S)-toluene-4-sulfonic acid 3-(3-tert-butyl-2-oxo-2,3-dihydro-benzimidazol-1-yl)-2-hydroxy-3-phenyl-propyl ester (0.8 g, 1.6 mmol) in methanol (10 mL) was added a 2N solution of methylamine in methanol (4 mL, 8 mmol) and the reaction mixture stirred for 12 hours at room temperature in a sealed tube. Upon completion, the reaction was partitioned between a saturated aqueous solution of sodium bicarbonate (50 mL) and ethyl acetate (50 mL). The organic layer was separated, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via flash column chromatography (silica, 20% MeOH in dichloromethane) to give 1-tert-butyl-3-[(1S,2R)-2-hydroxy-3-methylamino-1-phenylpropyl]-1,3-dihydro-2H-benzimidazol-2-one as a clear oil. The free base was dissolved in a minimum amount of ethanol and treated with a 2N ethereal solution of hydrochloric acid and stirred for 1 hour s. The ethanol was removed in vacuo and the clear oil was triturated with diethyl ether/dichloromethane to give 1-tert-butyl-3-[(1S,2R)-2-hydroxy-3-(methylamino)-1-phenylpropyl]-1,3-dihydro-2H-benzimidazol-2-one hydrochloride as a white solid. HRMS: calcd for C21H27N3O2+H+, 354.21760. Found (ESI, [M+H]+), 354.2179.

reactant | (2S,3S)-toluene-4-sulfonic acid 3-(3-tert-butyl-2-oxo-2,3-dihydro-benzimidazol-1-yl)-2-hydroxy-3-phenyl-propyl ester | 1.6 mmol, 0.8 g | C(C)(C)(C)N1C(N(C2=C1C=CC=C2)[C@H]([C@@H](COS(=O)(=O)C2=CC=C(C=C2)C)O)C2=CC=CC=C2)=O | C27H30N2O5S
reactant | methylamine | CN | CH5N
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 8 mmol, 4 mL | CO | CH4O
product | 1-tert-butyl-3-[(1S,2R)-2-hydroxy-3-methylamino-1-phenylpropyl]-1,3-dihydro-2H-benzimidazol-2-one | C(C)(C)(C)N1C(N(C2=C1C=CC=C2)[C@H]([C@@H](CNC)O)C2=CC=CC=C2)=O | C21H27N3O2
